US04451463
A solution of 4-benzyloxybutyronitrile (16.5 g.) and EtOH (8.6 g.) in CH2Cl2 (100 ml.) was saturated with HCl gas at 0° and the mixture kept at 0° for 6 days. The resulting suspension was evaporated to dryness in vacuo and the residue was slurried with dry ether. The insoluble solid was added to 40% aqueous K2CO3 (120 g.) at 0° and the oil which separated was extracted with CH2Cl2 (2×100 ml.). The CH2Cl2 layer was washed with a little water, brine and then dried to give the crude imidate (14 g.). This was stirred with NH4Cl (3.5 g.) in MeOH (100 ml.) for 24 hours and the solution was evaporated to give a crude sample (14.6 g.) of 4-benzyloxybutanamidine hydrochloride.

reactant | 4-benzyloxybutyronitrile | 16.5 g | C(C1=CC=CC=C1)OCCCC#N | C11H13NO
reactant | EtOH | 8.6 g | CCO | C2H6O
reactant | HCl | Cl | ClH
reactant | NH4Cl | 3.5 g | [NH4+].[Cl-]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 ml | CO | CH4O
product | 4-benzyloxybutanamidine hydrochloride | 14.6 g | Cl.C(C1=CC=CC=C1)OCCCC(=N)N | InChI=1S/C11H16N2O.ClH/c12-11(13)7-4-8-14-9-10-5-2-1-3-6-10;/h1-3,5-6H,4,7-9H2,(H3,12,13);1H
